US05451601
1.51 g of potassium carbonate, 0.3 g of sodium iodide and then 1.0 cm3 of piperidine are successively added to a solution of 2.87 g of methyl [2-(3-bromopropoxy)-phenyl]acetate in 30 cm3 of acetonitrile. The reaction mixture is refluxed for 2 hours and then filtered. The filtrate is concentrated to dryness and the residue obtained is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 4 cm, height 50 cm), eluting under a nitrogen pressure of 0.1 bar with an ethyl acetate and methanol mixture (80/20 by volume) and collecting fractions of 125 cm3. Fractions 9 to 16 are pooled and concentrated to dryness. The residue is triturated in diisopropyl oxide, the suspension is filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). 2.0 g of methyl [2-(3-piperidinopropoxy)phenyl]-acetate are obtained in the form of a yellow oil which is used as it in the next stage.

reactant | potassium carbonate | 1.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.3 g | [I-].[Na+]
reactant | piperidine | 1.0 cm3 | N1CCCCC1 | C5H11N
reactant | methyl [2-(3-bromopropoxy)-phenyl]acetate | 2.87 g | BrCCCOC1=C(C=CC=C1)CC(=O)OC | C12H15BrO3
solvent | acetonitrile | 30 cm3 | C(C)#N | C2H3N
product | methyl [2-(3-piperidinopropoxy)phenyl]-acetate | 2.0 g | N1(CCCCC1)CCCOC1=C(C=CC=C1)CC(=O)OC | C17H25NO3
